US05180742
Lithium aluminum hydride (1.0 g, 27 mmole) was added to a tetrahydrofuran solution (50 ml) containing methyl 10-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-10-phenyldecanoate, (2.4 g, 6 mmole), followed by stirring for 3 hours with heating at 60° C. After the reaction solution was cooled, water was added to suspend the reaction, and 2N hydrochloric acid was added to adjust to pH 4.0. A 10% aqueous solution of ferric chloride (5 ml) was added to the mixture, and the reaction was allowed to proceed at room temperature for 10 minutes. Ethyl acetate was added to the reaction solution, and extraction was effected. The organic layer was washed with water, dried and concentrated under reduced pressure, and the residue was chromatographed on a silica gel column, followed by elution with isopropyl ether-ethyl acetate (1:1) to give 10-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-10-phenyldecan-1-ol (2.0 g). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound Nos. 74 to 84 were prepared.

reactant | Lithium aluminum hydride | 27 mmole, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | methyl 10-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-10-phenyldecanoate | 6 mmole, 2.4 g | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCCCCC(=O)OC)C1=CC=CC=C1 | C26H34O4
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 10-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-10-phenyldecan-1-ol | 2.0 g | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCCCCCO)C1=CC=CC=C1 | C25H34O3
